US07507740B2
(i) Production of tert-butyl {2-[4-({3-methyl-4-[3-(trifluoromethoxy)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethyl}carbamate
tert-Butyl[2-(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)ethyl]carbamate (297 mg) and 3-methyl-4-[3-(trifluoromethoxy)phenoxy]aniline (425 mg) were dissolved in isopropyl alcohol (2.97 mL), and the mixture was stirred at 80° C. for 16 hrs. After cooling to room temperature, the mixture was diluted with ethyl acetate (60 mL), and washed with aqueous sodium hydrogen carbonate (30 mL). The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (eluent, hexane:ethyl acetate=80:20→0:100) to give the title compound (563 mg) as a white powder.

reactant | tert-Butyl[2-(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)ethyl]carbamate | 297 mg | C(C)(C)(C)OC(NCCN1C=CC=2N=CN=C(C21)Cl)=O | C13H17ClN4O2
reactant | 3-methyl-4-[3-(trifluoromethoxy)phenoxy]aniline | 425 mg | CC=1C=C(N)C=CC1OC1=CC(=CC=C1)OC(F)(F)F | C14H12F3NO2
solvent | isopropyl alcohol | 2.97 mL | C(C)(C)O | C3H8O
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl {2-[4-({3-methyl-4-[3-(trifluoromethoxy)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethyl}carbamate | 563 mg | CC=1C=C(C=CC1OC1=CC(=CC=C1)OC(F)(F)F)NC=1C2=C(N=CN1)C=CN2CCNC(OC(C)(C)C)=O | C27H28F3N5O4
